US05962682
Analogously to Example 74, by condensing 3-(4-tert-butyl-benzenesulphonylamino)-5-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-benzoic acid with L-leucine methyl ester there was obtained methyl 2-[3-(4-tert-butyl-benzenesulphonylamino)-5-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-benzoylamino]-4-methyl-pentanoate.

reactant | 3-(4-tert-butyl-benzenesulphonylamino)-5-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-benzoic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)O)C=C(C1OC1=CC(=CC=C1)OC)OCCO | C26H29NO8S
reactant | L-leucine methyl ester | COC([C@@H](N)CC(C)C)=O | C7H15NO2
product | methyl 2-[3-(4-tert-butyl-benzenesulphonylamino)-5-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-benzoylamino]-4-methyl-pentanoate | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)NC(C(=O)OC)CC(C)C)C=C(C1OC1=CC(=CC=C1)OC)OCCO | C33H42N2O9S
